US09422331B2
To a rt solution of (3S,4S)-3-amino-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile dihydrochloride (126 mg, 268 μmol) in DMF (893 μl) was added Boc-N-methyl-L-alanine (59.9 mg, 295 μmol), N,N-diisopropylethylamine (232 μl, 1.34 mmol), and HBTU (112 mg, 295 μmol). The reaction was stirred at rt for 1 h, then diluted with EtOAc, washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (144 mg, 92%) as a white solid. MS m/z 583 (MH)+.

reactant | (3S,4S)-3-amino-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile dihydrochloride | 268 μmol, 126 mg | Cl.Cl.N[C@H]1[C@@H](NC2=C(N(C1=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC(=C2)C#N)C
reactant | Boc-N-methyl-L-alanine | 295 μmol, 59.9 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 1.34 mmol, 232 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 295 μmol, 112 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 893 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 144 mg, 92% | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C33H38N6O4
